US06143762
7-Acetyl-2-(4-aminobutyl)-1,2,3,4-tetrahydroisoquinoline
A solution of 7-acetyl-2-(4-trifluoroacetamidobutyl)-1,2,3,4-tetrahydroisoquinoline (0.360 g, 1.05 mmol) was added to a stirred mixture of methanol (10 ml), water (1.5 ml) and potassium carbonate (0.769 g, 5.56 mmol) and heated at reflux for 1 h. The mixture was cooled then evaporated in vacuo and the residue partitioned between water (100 ml) and dichloromethane (50 ml). The aqueous phase was washed with dichloromethane (2×50 ml). The combined organic extracts were dried (Na2SO4) and evaporated in vacuo to afford the title compound as a yellow oil (0.178 g, 68%).

reactant | 7-acetyl-2-(4-trifluoroacetamidobutyl)-1,2,3,4-tetrahydroisoquinoline | 1.05 mmol, 0.360 g | C(C)(=O)C1=CC=C2CCN(CC2=C1)CCCCNC(C(F)(F)F)=O | C17H21F3N2O2
reactant | methanol | 10 ml | CO | CH4O
reactant | potassium carbonate | 5.56 mmol, 0.769 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1.5 ml | O | H2O
product | 7-Acetyl-2-(4-aminobutyl)-1,2,3,4-tetrahydroisoquinoline | 0.178 g, 68% | C(C)(=O)C1=CC=C2CCN(CC2=C1)CCCCN | C15H22N2O
